US04436748
A mixture of 3.7 g of 6,7-dichloro-5-hydroxy-3-methylbenzo[b]thiophene, 4.3 g of ethyl bromoacetate and 20 ml of 2-butanone containing 5 ml of dimethylformamide is stirred at 60°-70° for 2 hours. The cooled mixture is diluted with ice-water and extracted 3 times with ether. The combined ether extract is dried over anhydrous magnesium sulfate and concentrated under vacuum to a brownish oil. Purification of the crude product is effected by column chromatography (alumina/ether). The purified ester is recrystallized from ether-pentane to give 4.3 g of ethyl[ (6,7-dichloro-3-methylbenzo[b]thien-5-yl)oxy]acetate as fluffy needles, mp 115°-117°.

reactant | 6,7-dichloro-5-hydroxy-3-methylbenzo[b]thiophene | 3.7 g | ClC=1C(=CC2=C(SC=C2C)C1Cl)O | C9H6Cl2OS
reactant | ethyl bromoacetate | 4.3 g | BrCC(=O)OCC | C4H7BrO2
reactant | 2-butanone | 20 ml | CC(CC)=O | C4H8O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl[ (6,7-dichloro-3-methylbenzo[b]thien-5-yl)oxy]acetate | 4.3 g | C(C)OC(COC1=CC2=C(SC=C2C)C(=C1Cl)Cl)=O | C13H12Cl2O3S
